US08455477B2
To a solution tert-butyl 3-{[methoxy(methyl)amino]carbonyl}azetidine-1-carboxylate (93.8 g, 0.3 mol) in tetrahydrofuran at −70° C. was added dropwise lithium aluminum hydride (12.3 g in 320 ml THF). After the addition was complete, the reaction mixture was stirred for 1 h at −70° C. The reaction was quenched by the addition of 13 ml of water, followed by 39 ml of 1N aqueous NaOH solution and 13 ml of water. The mixture was stirred for 1 h, filtered and concentrated. The residue was partitioned between 300 ml of ethyl acetate and 100 ml of water. The layers were separated and the organic layers were washed with 100 ml of brine. The organic layer was dried over magnesium sulfate, filtered and concentrated to afford tert-butyl 3-formylazetidine-1-carboxylate, which was used without additional purification.

reactant | tert-butyl 3-{[methoxy(methyl)amino]carbonyl}azetidine-1-carboxylate | 0.3 mol, 93.8 g | CON(C(=O)C1CN(C1)C(=O)OC(C)(C)C)C | C11H20N2O4
reactant | lithium aluminum hydride | 320 ml, 12.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl 3-formylazetidine-1-carboxylate | C(=O)C1CN(C1)C(=O)OC(C)(C)C | C9H15NO3
